US07122666B2
9(iv)′ (8aS)-8-Methyl-7-(1-pyrrolidinyl)-1,2,3,5,8,8a-hexahydroindolizin-5-one
2.62 ml (31.4 mmol) of pyrrolidine were added to a solution of 2.62 g (15.7 mmol) of (8aS)-8-methyl-1,2,3,5,6,7,8,8a-octahydroindolizine-5,7-dione [obtained as described in Preparative Example 9(iii)′ above] in 30 ml of ethanol and the resulting mixture was stirred for 30 minutes at 80° C. After the reaction was completed, the solvent and excess pyrrolidine were removed from the reaction mixture by evaporation under reduced pressure to afford 3.67 g (yield: quantitative) of the title compound as a brown oil.

reactant | pyrrolidine | 31.4 mmol, 2.62 ml | N1CCCC1 | C4H9N
reactant | (8aS)-8-methyl-1,2,3,5,6,7,8,8a-octahydroindolizine-5,7-dione | 15.7 mmol, 2.62 g | CC1C(CC(N2CCC[C@@H]12)=O)=O | C9H13NO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (8aS)-8-Methyl-7-(1-pyrrolidinyl)-1,2,3,5,8,8a-hexahydroindolizin-5-one | 3.67 g, yield: quantitative | CC1C(=CC(N2CCC[C@@H]12)=O)N1CCCC1 | C13H20N2O
